US08258134B2
A solution of 2-[5-chloro-6-oxo-1-(tetrahydro-pyran-2-yl)-1,6-dihydro-pyridazin-4-yloxy]-benzonitrile (61.8 g, 0.19 mol) in methanol (370 mL) was treated with a 6N aqueous hydrochloric acid solution (185 mL). The reaction was stirred at 90° C. for 4 h and then was allowed to cool to 25° C. The reaction was diluted with water. The resulting precipitate was collected by filtration, washed with water and dried in vacuo to afford 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile (43.1 g, 94%); ESI-MS 248 [M+H+]; HPLC: >99% (purity). 1H-NMR (300 MHz, DMSO-d6) δ 13.63 (s, 1H), 7.96-7.99 (m, 2H), 7.71-7.77 (m, 1H), 7.37-7.45 (m, 2H).

reactant | 2-[5-chloro-6-oxo-1-(tetrahydro-pyran-2-yl)-1,6-dihydro-pyridazin-4-yloxy]-benzonitrile | 0.19 mol, 61.8 g | ClC1=C(C=NN(C1=O)C1OCCCC1)OC1=C(C#N)C=CC=C1 | C16H14ClN3O3
reactant | hydrochloric acid | 6N, 185 mL | Cl | ClH
solvent | methanol | 370 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile | 43.1 g, 94% | ClC1=C(C=NNC1=O)OC1=C(C#N)C=CC=C1 | C11H6ClN3O2
